US07511050B2
Step E: N-[(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]benzamide
To the solution of N-[(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]benzamide (0.11 g, 0.28 mmol) in THF (10 mL) was added N-Bromosuccinimide (0.076 g, 0.42 mmol). The mixture was stirred at 70° C. for 1 hour. The reaction mixture was concentrated and purified by preparative LCMS. LCMS calculated for C19H21BrN7O2(M+H): 458.1; found: 458.0, 460.0.

reactant | N-[(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]benzamide | 0.28 mmol, 0.11 g | O=C1C=2NC=NC2N(C=2N1C(=NN2)CNC(C2=CC=CC=C2)=O)CCCCC | C19H21N7O2
reactant | N-Bromosuccinimide | 0.42 mmol, 0.076 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]benzamide | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CNC(C3=CC=CC=C3)=O)CCCCC | C19H20BrN7O2
